US05159081
To a solution of 43.06 gm (500 mMol) isovaleraldehyde in ethanol (150 ml) were added 52 gm (500 mMol) malonic acid followed by 57.75 gm (750 mMol) ammonium acetate. The suspension was stirred at reflux for 5 hours and the resulting solution was then cooled to 0° C. The resulting solid was filtered, washed with 1:1 ethyl acetate:ethanol (200 ml) and dried under vacuum for 18 hours to give 40 gm of crude 3-amino-5-methylhexanoic acid.

reactant | isovaleraldehyde | 500 mMol, 43.06 gm | C(CC(C)C)=O | C5H10O
reactant | malonic acid | 500 mMol, 52 gm | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 750 mMol, 57.75 gm | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-amino-5-methylhexanoic acid | 40 gm | NC(CC(=O)O)CC(C)C | C7H15NO2
